US04721794
Preparation of N,N-Dimethyl-N'-(5-bromothiophene-2-sulfonyl)formamidine
To a stirred mixture of 5-bromothiophene-2-sulfonamide (24.2 g, 0.10 mol) in acetonitrile (100 ml) was added dimethylformamide dimethyl acetal (14 ml) in acetonitrile (125 ml) dropwise over 0.5 hour. After an additional 0.5 hour the solvent was removed in vacuo. The residue was treated with water and the solid that precipitated was collected and dried, 28.7 g., m.p. 103°-105° C. Recrystallization from 1-chlorobutane gave material with m.p. 104°-106° C.

reactant | 5-bromothiophene-2-sulfonamide | 0.10 mol, 24.2 g | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
reactant | dimethylformamide dimethyl acetal | 14 ml | COC(N(C)C)OC | C5H13NO2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 125 ml | C(C)#N | C2H3N
product | N,N-Dimethyl-N'-(5-bromothiophene-2-sulfonyl)formamidine | CN(C=NS(=O)(=O)C=1SC(=CC1)Br)C | C7H9BrN2O2S2
